US04242344
A mixture of 2,3-dichloropyrazine-5-carboxylic acid (19.3 g, 0.100 mole) and 3-amino-1-propyne (1.10 g, 0.20 mole) in 100 ml dioxane is refluxed for 24 hours, cooled and concentrated under vacuum. The residue is partitioned between aqueous sodium bicarbonate and chloroform and the aqueous extract neutralized with acetic acid to give a precipitate of 3-chloro-2-(2-propyn-1-ylamino)pyrazine-5-carboxylic acid.

reactant | 2,3-dichloropyrazine-5-carboxylic acid | 0.100 mole, 19.3 g | ClC1=NC=C(N=C1Cl)C(=O)O | C5H2Cl2N2O2
reactant | 3-amino-1-propyne | 0.20 mole, 1.10 g | NCC#C | C3H5N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-chloro-2-(2-propyn-1-ylamino)pyrazine-5-carboxylic acid | ClC=1C(=NC=C(N1)C(=O)O)NCC#C | C8H6ClN3O2
